US08283104B2
Bis(4-tert-butylphenyl)iodonium hydrogen sulfate (0.02 mole equivalent) prepared in Synthesis Example 1-6, 0.024 mole equivalent of the aqueous solution of sodium 3,3,3-trifluoro-2-hydroxy-2-trifluoromethylpropane-1-sulfonate prepared in Synthesis Example 1-9, and 70 g of methylene chloride were mixed and agitated at room temperature for 1 hour. After the agitation, the organic layer was separated, washed by water, and then concentrated under reduced pressure. The residue was recrystallized by adding diisopropyl ether, and then the obtained crystals were recovered and dried to obtain the intended bis(4-tert-butylphenyl)iodonium 3,3,3-trifluoro-2-hydroxy-2-trifluoromethylpropane-1-sulfonate (9.4 g of white crystals (yield 72%)). The structure of the intended product is shown below.

reactant | Bis(4-tert-butylphenyl)iodonium hydrogen sulfate | 0.02 mole | S(=O)(=O)(O)[O-].C(C)(C)(C)C1=CC=C(C=C1)[I+]C1=CC=C(C=C1)C(C)(C)C
reactant | sodium 3,3,3-trifluoro-2-hydroxy-2-trifluoromethylpropane-1-sulfonate | FC(C(CS(=O)(=O)[O-])(C(F)(F)F)O)(F)F.[Na+]
solvent | methylene chloride | 70 g | C(Cl)Cl | CH2Cl2
product | bis(4-tert-butylphenyl)iodonium 3,3,3-trifluoro-2-hydroxy-2-trifluoromethylpropane-1-sulfonate | 9.4 g, yield 72% | FC(C(CS(=O)(=O)[O-])(C(F)(F)F)O)(F)F.C(C)(C)(C)C1=CC=C(C=C1)[I+]C1=CC=C(C=C1)C(C)(C)C | InChI=1S/C20H26I.C4H4F6O4S/c1-19(2,3)15-7-11-17(12-8-15)21-18-13-9-16(10-14-18)20(4,5)6;5-3(6,7)2(11,4(8,9)10)1-15(12,13)14/h7-14H,1-6H3;11H,1H2,(H,12,13,14)/q+1;/p-1
